US08420655B2
To a solution of 2-bromobenzaldehyde (300 mg, 1.62 mmol) in DMF (10 mL) are added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (470 mg, 2.43 mmol), Pd(PPh3)4 (190 mg, 0.16 mmol) and 2M Na2CO3 (0.50 mL) at room temperature. The solution is heated to 100° C. for 1 hour in a microwave reactor, cooled and poured into water and EtOAc. Layers are separated and the aqueous phase extracted with EtOAc (1×10 mL). The combined organics are dried (MgSO4), filtered and are concentrated to give the crude product which is purified via flash chromatography (12 g silica gel, 0-10% MeOH/CH2Cl2). The product-containing fractions are combined and concentrated to give 2-(1H-pyrazol-4-yl)-benzaldehyde (110 mg, 39%) which is used without further purification.

reactant | 2-bromobenzaldehyde | 1.62 mmol, 300 mg | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.43 mmol, 470 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | Na2CO3 | 2M, 0.50 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.16 mmol, 190 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1H-pyrazol-4-yl)-benzaldehyde | 110 mg, 39% | N1N=CC(=C1)C1=C(C=O)C=CC=C1 | C10H8N2O
